US09302984B2
2,4-Difluorophenylboronic acid (15 g, 129 mmol) was added to a solution of bromobenzene (19.8 g, 126 mmol) in DME (500 mL). To this was added a solution of sodium carbonate (55.8 g, 520 mmol) in water (260 mL). The solution was degassed by bubbling argon through the mixture and then stirred under argon. Pd(dppf)Cl2 (1.5 g, 2.1 mmol) was added and the mixture heated overnight at 90° C. under argon. The mixture was cooled to room temperature and water (150 mL) and ethyl acetate (500 mL) were added. The layers were separated and the organic layer was washed with 2 M NaOH (100 mL), water (100 mL) and brine (100 mL). The black ethyl acetate layer was dried over MgSO4, charcoal was added, and the mixture was filtered through a short pad of silica. Evaporation of the solvents gave 2,4-difluorobiphenyl as a brown oil, which crystallised on standing (21.2 g).

reactant | 2,4-Difluorophenylboronic acid | 129 mmol, 15 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | bromobenzene | 126 mmol, 19.8 g | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium carbonate | 520 mmol, 55.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | DME | 500 mL | COCCOC | C4H10O2
solvent | water | 260 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 2.1 mmol, 1.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 150 mL | O | H2O
product | 2,4-difluorobiphenyl | FC1=C(C=CC(=C1)F)C1=CC=CC=C1 | C12H8F2
